US06348474B1
6-Bromo-2-(N-(2-chloro-4-cyanobenzyl)acetamido)-3-nitropyridine
2-(Acetamido)-6-bromo-3-nitropyridine (3.21 g) was dissolved in dry N,N-dimethylformamide (16 ml), and sodium hydride (60% in oil, 326 mg) was added under ice-cooling. The mixture was stirred for 30 min. A solution of 2-chloro-4-cyanobenzyl bromide (2.34 g) in dry N,N-dimethylformamide (4 ml) was dropwise added at the same temperature, and the mixture was stirred at room temperature for 1 hr. The reaction mixture was poured into ice water and the mixture was extracted with ethyl acetate. The organic layer was dried over magnesium sulfate and concentrated to dryness under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=5/1) to give the objective compound (4.17 g) as a pale-yellow powder.

reactant | 2-(Acetamido)-6-bromo-3-nitropyridine | 3.21 g | C(C)(=O)NC1=NC(=CC=C1[N+](=O)[O-])Br | C7H6BrN3O3
reactant | sodium hydride | 326 mg | [H-].[Na+]
reactant | 2-chloro-4-cyanobenzyl bromide | 2.34 g | ClC1=C(CBr)C=CC(=C1)C#N | C8H5BrClN
solvent | N,N-dimethylformamide | 16 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 6-Bromo-2-(N-(2-chloro-4-cyanobenzyl)acetamido)-3-nitropyridine | 4.17 g | BrC1=CC=C(C(=N1)N(C(C)=O)CC1=C(C=C(C=C1)C#N)Cl)[N+](=O)[O-] | C15H10BrClN4O3
